US09163011B2
a) 3-Amino-5-((Z)-2-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester
A mixture of 3-amino-5-chloro-pyrazine-2-carboxylic acid methyl ester [28643-16-5] (2 g, 10.66 mmol), lithium chloride (1.582 g, 37.3 mmol), Pd(PPh3)2Cl2 (0.748 g, 1.066 mmol) and tributyl-((Z)-2-ethoxy-vinyl)-stannane (6.42 ml, 19.19 mmol) in DMF (104 ml) under argon was heated at 80° C. bath temperature for 1.5 h. A saturated. aq. NH4Cl was added and the mixture was extracted with MTBE, then once with EtOAc/THF 3/1. The combined organic layer was washed with brine, dried with Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:9) to provide the title compound as yellow oil (1.96 g).

reactant | 3-amino-5-chloro-pyrazine-2-carboxylic acid methyl ester | 10.66 mmol, 2 g | COC(=O)C1=NC=C(N=C1N)Cl | C6H6ClN3O2
reactant | lithium chloride | 37.3 mmol, 1.582 g | [Cl-].[Li+]
reactant | tributyl-((Z)-2-ethoxy-vinyl)-stannane | 19.19 mmol, 6.42 ml | C(CCC)[Sn](\C=C/OCC)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 104 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 1.066 mmol, 0.748 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Amino-5-((Z)-2-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester | 1.96 g | COC(=O)C1=NC=C(N=C1N)\C=C/OCC | C10H13N3O3
